US07329658B2
Preparation of 2-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-6,6-dimethyl-2,5,7-triazaspiro[3.4]octan-8-one (4A-1)
To a mixture of 3-amino-1-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-azetidine-3-carboxylic acid amide (3A-6; 27 mg, 0.057 mmol) and 2,2-dimethoxypropane (0.75 ml, 6.1 mmol) in toluene (1.3 ml) was added acetic acid (5 drops). After stirring at reflux for 18 hours, the reaction was cooled and extracted from saturated aqueous NaHCO3 with ethyl acetate. The combined extracts were dried (MgSO4), concentrated, in vacuo, and then purified on a Biotage™ Flash 12S column using 0-5% methanol in methylene chloride as eluant to afford after drying, in vacuo, 4A-1 (16 mg, 55%) as an off-white solid: +ESI MS (M+1) 508.1; 1H NMR (400 MHz, DMSO-d6) δ 8.60 (s, 1H), 7.56-7.42 (m, 4H), 7.34-7.30 (m, 4H), 4.92 (d, J=10.4 Hz, 1H), 4.73 (d, J=10.4 Hz, 1H), 4.43 (d, J=10.4 Hz, 1H), 4.19 (d, J=10.4 Hz, 1H), 2.40 (s, 3H), 1.23 (s, 3H), 1.20 (s, 3H).

reactant | 3-amino-1-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-azetidine-3-carboxylic acid amide | 0.057 mmol, 27 mg | NC1(CN(C1)C1=NC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C)C(=O)N | C22H19Cl2N7O
reactant | 2,2-dimethoxypropane | 6.1 mmol, 0.75 ml | COC(C)(C)OC | C5H12O2
solvent | toluene | 1.3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 2-[7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-6,6-dimethyl-2,5,7-triazaspiro[3.4]octan-8-one | ClC1=C(C=CC=C1)C1=NN2C(N=C(N=C2N2CC3(C2)NC(NC3=O)(C)C)C)=C1C1=CC=C(C=C1)Cl | C25H23Cl2N7O
